US04051173
A mixture of 2.42 g. of 4p-hydroxyphenyl-thiochromane and 0.23 g. of sodium in 50 ml. of xylene is boiled for 3 hours. The mixture is allowed to cool to 20° C., 2.15 g. of 2-bromo-2-phenylpropanol in 10 ml. of xylene are added and the suspension is stirred for 6 hours at the boil, cooled and treated with 2 ml. of ethanol. The inorganic precipitate is filtered off, the filtrate is evaporated, the residue is taken up in ether and the solution is washed with NaHCO3 solution and saturated NaCl solution, dried over MgSO4 and evaporated, to give 2-[4-(4-thiochromanyl)-phenoxy]-2-phenylpropanol, nD20 1.6172.

reactant | 4p-hydroxyphenyl-thiochromane | OC1=CC=C(C=C1)C1CCSC2=CC=CC=C12 | C15H14OS
reactant | sodium | [Na] | Na
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | 2-bromo-2-phenylpropanol | BrC(CO)(C)C1=CC=CC=C1 | C9H11BrO
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(4-thiochromanyl)-phenoxy]-2-phenylpropanol | S1CCC(C2=CC=CC=C12)C1=CC=C(OC(CO)(C)C2=CC=CC=C2)C=C1 | C24H24O2S
